US05587475
Preparation of 8-mercaptooctanoic acid
5.0 g 8-bromooctanoic acid (22.4 mmol), 2.24 g thiourea (29.4 mmol) and 22 ml water were placed in a round botton flask, and the mixture was refluxed for 3 hours. 15.1 ml 3M sodium hydroxide was then added and the mixture was refluxed for one additional hour. The reaction mixture was cooled in an ice bath, and dilute sulfuric acid was added dropwise until the solution had a pH of about 2. The cloudy solution was then extracted with ether (2×25 ml), dried over anhydrous MgSO4, and concentrated under reduced pressure to give a white solid (2.52 g, 64%). 1H-NMR (300 MHz, CDCl3) 1.37, (m, 7 H); 1.60, (m, 4 H); 2.35, (t, J=7.4 Hz, 2 H); 2.52, (q, J=7.4 Hz, 2 H).

reactant | 8-bromooctanoic acid | 22.4 mmol, 5.0 g | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | thiourea | 29.4 mmol, 2.24 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 3M, 15.1 ml | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 22 ml | O | H2O
product | 8-mercaptooctanoic acid | 2.52 g, 64% | SCCCCCCCC(=O)O | C8H16O2S
